US05369110
1.83 ml of triethylamine are added to a solution of 2.19 g of N-(2'-cyanobiphenyl-4-ylmethyl)-N-propyl-amine and 2.37 g of 3,3-dimethylglutaric acid monomethyl ester monochloride in 100 ml of CH2Cl2 and the mixture is stirred at room temperature for 2 hours. Extraction twice with 50 ml of water each time and extraction of the aqueous phase with 40 ml of CH2Cl2 produces an organic phase which, after being concentrated by evaporation, yields by the customary procedure 3,3-dimethyl-4-methoxycarbonyl-butanoic acid N-(2'-cyanobiphenyl-4-ylmethyl)-N-propyl-amide that has an Rf value of 0.66 [CH2Cl2 /CH3OH (95:5)].

reactant | triethylamine | 1.83 ml | C(C)N(CC)CC | C6H15N
reactant | N-(2'-cyanobiphenyl-4-ylmethyl)-N-propyl-amine | 2.19 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNCCC | C17H18N2
reactant | 3,3-dimethylglutaric acid monomethyl ester monochloride | 2.37 g | [Cl-].COC(CC(CC(=O)O)(C)C)=O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 3,3-dimethyl-4-methoxycarbonyl-butanoic acid N-(2'-cyanobiphenyl-4-ylmethyl)-N-propyl-amide | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(CC(CC(=O)OC)(C)C)=O)CCC | C25H30N2O3
